US04556665
4-(4-Fluorobenzoyl)-1,3-dihydro-5-methyl-2H-imidazol-2-one
2,3-Dihydro-5-methyl-2-oxo-1H-imidazole-4-carboxylic acid (71.0 g, 0.5 mol) and 4-fluorobenzoic acid (105 g, 0.75 mol) are mixed together then covered with polyphosphoric acid (1.6 Kg). The mixture is rapidly heated to 60° C. with stirring, then gradually heated to 110° C. over 2.5 hr. with continued stirring. After stirring at ca. 110° C. for an additional 2 hr. the mixture is cooled to 60° C. and mixed with crushed ice (3.5 Kg). After all the ice has melted, the mixture is filtered and the solid washed with water. The filter cake is suspended in water (800 mL) and the pH raised to approximately 8 by the gradual addition of 10% aqueous sodium hydroxide solution, and the mixture stirred overnight. The pH is adjusted to 8-9, the solid collected by filtration, washed thoroughly with water and dried. Recrystallization from isopropanol-water affords the title compound.

reactant | 2,3-Dihydro-5-methyl-2-oxo-1H-imidazole-4-carboxylic acid | 0.5 mol, 71.0 g | CC1=C(NC(N1)=O)C(=O)O | C5H6N2O3
reactant | 4-fluorobenzoic acid | 0.75 mol, 105 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
product | 4-(4-Fluorobenzoyl)-1,3-dihydro-5-methyl-2H-imidazol-2-one | FC1=CC=C(C(=O)C=2NC(NC2C)=O)C=C1 | C11H9FN2O2
